US06881733B1
Methyl N-[benzyl]3-aminopropionate
A solution of 55 mL (0.50 mole) benzylamine in 250 mL methanol was cooled in an ice bath. A solution of 54 mL (0.60 mole) methyl acrylate in 50 mL methanol was added dropwise over 30 minutes. The reaction mixture was then allowed to warm gradually to room temperature. After about 96 hours the reaction mixture was concentrated under reduced pressure and the residue vacuum distilled to provide 74.6 gm (77%) of the desired compound in two fractions.

reactant | benzylamine | 0.50 mole, 55 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl acrylate | 0.60 mole, 54 mL | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 250 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | Methyl N-[benzyl]3-aminopropionate | 74.6 gm, 77% | C(C1=CC=CC=C1)NCCC(=O)OC | C11H15NO2
